US04203897
A solution of m-chloroperbenzoic acid (0.445 g) in chloroform (5 ml) was added to a solution of 2,2,2-trichloroethyl 3-bromo-3-methyl-7-(2-phenylacetamido)cepham-4-carboxylate (1.21 g) under stirring at -5° to -10° C., and the mixture was stirred for an hour at the same temperature. After the reaction, the reaction mixture was washed with 5% sodium bicarbonate aqueous solution and with water in turn and then dried. After the solvent was distilled off, the residue was crystallized by adding ether. Thus obtained crystals were recrystallized from ethanol to give 2,2,2-trichloroethyl 3-bromo-3-methyl-7-(2-phenylacetamido)cepham-4-carboxylate-1-oxide (1.10 g), mp 159° to 161° C.

reactant | m-chloroperbenzoic acid | 0.445 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2,2,2-trichloroethyl 3-bromo-3-methyl-7-(2-phenylacetamido)cepham-4-carboxylate | 1.21 g | BrC1(CS[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H18BrCl3N2O4S
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,2,2-trichloroethyl 3-bromo-3-methyl-7-(2-phenylacetamido)cepham-4-carboxylate-1-oxide | 1.10 g | BrC1(CS([C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)=O)C | C18H18BrCl3N2O5S
